US09278931B2
E) tert-butyl(cyclopropylmethyl)(trans-2-{4-[(4-methylbenzoyl)amino]phenyl}cyclopropyl)carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate (75.0 mg) and triethylamine (41.5 μL) in THF (1.24 mL) was added 4-toluoyl chloride (39.4 μL). The mixture was stirred at room temperature overnight, and poured into saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (104.3 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate | 75.0 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(C(OC(C)(C)C)=O)CC1CC1 | C18H26N2O2
reactant | triethylamine | 41.5 μL | C(C)N(CC)CC | C6H15N
reactant | 4-toluoyl chloride | 39.4 μL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1.24 mL | C1CCOC1 | C4H8O
product | tert-butyl(cyclopropylmethyl)(trans-2-{4-[(4-methylbenzoyl)amino]phenyl}cyclopropyl)carbamate | 104.3 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)C)=O)CC1CC1)=O | C26H32N2O3
